US09126948B2
Step 6. 4-Amino-6-({1-[5-chloro-3-(5-cyanopyridin-3-yl)-4-fluoro-2-methoxyphenyl]ethyl}amino)pyrimidine-5-carbonitrile
Into a microwave vial was added 4-amino-6-{[1-(3-bromo-5-chloro-4-fluoro-2-methoxyphenyl)ethyl]amino}pyrimidine-5-carbonitrile (8.0 mg, 0.020 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile (5.51 mg, 0.0240 mmol), a solution of sodium carbonate (48 μL, 0.050 mmol) in water (48 μL), 1,4-dioxane (0.2 mL, 2 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.4 mg, 0.0012 mmol). The mixture was bubbled with N2 for 5 minutes and heated at 90° C. for 2 h. Purification by preparative LCMS (pH 10) gave the desired compound (37% yield). LCMS calculated for C20H16ClFN7O (M+H)+: m/z=424.1. found: 424.1.

reactant | 4-amino-6-{[1-(3-bromo-5-chloro-4-fluoro-2-methoxyphenyl)ethyl]amino}pyrimidine-5-carbonitrile | 0.020 mmol, 8.0 mg | NC1=NC=NC(=C1C#N)NC(C)C1=C(C(=C(C(=C1)Cl)F)Br)OC | C14H12BrClFN5O
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile | 0.0240 mmol, 5.51 mg | CC1(OB(OC1(C)C)C=1C=NC=C(C#N)C1)C | C12H15BN2O2
reactant | sodium carbonate | 0.050 mmol, 48 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 2 mmol, 0.2 mL | O1CCOCC1 | C4H8O2
solvent | water | 48 μL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0012 mmol, 1.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Amino-6-({1-[5-chloro-3-(5-cyanopyridin-3-yl)-4-fluoro-2-methoxyphenyl]ethyl}amino)pyrimidine-5-carbonitrile | 37% yield | NC1=NC=NC(=C1C#N)NC(C)C1=C(C(=C(C(=C1)Cl)F)C=1C=NC=C(C1)C#N)OC | C20H15ClFN7O
